US06797718B2
Under a nitrogen atmosphere, a solution of tert-butyl 2-(2-aminoethoxy)ethylcarbamate (23.1 g, 113 mmol) in N,N-dimethylformamide (100 mL) was added over a 1 hour period to a solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (25.02 g, 113 mmol) in N,N-dimethylformamide (400 mL) containing triethylamine (24 mL, 175 mmol). The reaction mixture was allowed to stir at ambient temperature overnight. The N,N-dimethylformamide was removed under reduced pressure. The residue was dissolved in ethyl acetate (500 mL), washed with water (3×100 ml), dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by column chromatography (450 g of silica gel eluting sequentially with 3/1 hexanes/ethyl acetate (1.2 L), 2/1 hexanes/ethyl acetate (1.2 L), and 1/1 hexanes/ethyl acetate (1 L)) to provide 20.67 g of tert-butyl 2-{2-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]ethoxy}ethylcarbamate.

reactant | tert-butyl 2-(2-aminoethoxy)ethylcarbamate | 113 mmol, 23.1 g | NCCOCCNC(OC(C)(C)C)=O | C9H20N2O3
reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 113 mmol, 25.02 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | triethylamine | 175 mmol, 24 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | tert-butyl 2-{2-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]ethoxy}ethylcarbamate | 20.67 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCOCCNC(OC(C)(C)C)=O)C)C | C16H25ClN4O5
